US05461050
A mixture of 2.75 g of 6-(2-chloroethyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one, 3.1 g of the base of compound (1), 1.6 g of sodium carbonate and 100 ml of 4-methyl-2-pentanone was stirred for 72 hours at reflux temperature. After cooling, water was added and the whole was stirred. The separated aqueous layer was extracted with dichloromethane. The combined organic layers were dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 95:5→CH2Cl2 /CH3OH(NH3) 95:5). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile. The precipitate was filtered off and dried, yielding 1.70 g (32.7%) of 6-[2-[4-(5,6-dihydro-7-methyl-10(7H)-imidazo[1,2-a]-pyrrolo]3,2-d]azepin-10-ylidene)-1-piperidinyl]ethyl]-7-methyl-5H-thiazolo[3,2-a]-pyrimidin-5-one; mp. 201.4° C. (comp. 5).

reactant | 6-(2-chloroethyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 2.75 g | ClCCC1=C(N=C2N(C1=O)C=CS2)C | C9H9ClN2OS
reactant | sodium carbonate | 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | 100 ml | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 7-methyl-5H-thiazolo[3,2-a]-pyrimidin-5-one | CC=1N=C2N(C(C1)=O)C=CS2 | C7H6N2OS
